US05998412
A solution of triethylamine (2.0 ml, 14.4 mmol) and N-benzylglycine ethyl ester (2.25 ml, 12.0 mmol) in methylene chloride (5 ml) was added to a solution of sulfuryl chloride (0.96 ml, 12.0 mmol) in methylene chloride (30 ml) at -78° C. The reaction mixture was stirred at -78° C. for 4 h and then concentrated. Ether (75 ml) was added and the resulting precipitate was filtered. The organic layer was washed with 1M HCl and brine, dried over MgSO4 and concentrated in vacuo to give ethyl 2-[benzyl-(chlorosulfonyl)amino]acetate as a colorless oil (69%).

reactant | triethylamine | 14.4 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | N-benzylglycine ethyl ester | 12.0 mmol, 2.25 ml | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
reactant | sulfuryl chloride | 12.0 mmol, 0.96 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-[benzyl-(chlorosulfonyl)amino]acetate | 69% | C(C1=CC=CC=C1)N(CC(=O)OCC)S(=O)(=O)Cl | C11H14ClNO4S
